Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Pravachol / Simvastatin / Lipitor / Fenofibrate / tamsulosin / 
lisinopril
 
Attending: ___
 
Chief Complaint:
Fever and chills
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with HTN, HLD,
___ esophagus, depression, osteoarthritis who presented to
the ED with fever, chills, and reflux.  His wife ___ helped
provide some of the history as the patient deferred to her at
times.  He was feeling well until 2 night ago (___) 
when
he woke from sleep with severe reflux.  He took Tums and this
helped.  Then again last night around 1:30 AM he woke again with
reflux and then developed chills.  This morning around 6:30 AM 
he
was febrile to 102.2F.  He describes "burning" in his chest,
taste of "bile" and feeling like food was stuck.  He denies
nausea, saying that it was reflux instead causing some dry
heaving.  He never vomited, but had some saliva come up.  His
wife said he was very generally weak.  

This morning he had a frontal headache without neck pain or
vision changes or dizziness, but this has resolved completely. 
He denies dyspnea but has had a mild dry cough.  He denies
dysphagia or choking.  He denies diarrhea, constipation, or
difficulty urinating.  He got his flu vaccine this year.  

In the ED, he was afebrile with Tmax 98.3F, HR 75-96, BP
___, RR ___, 97-99% on room air.  He was found to
have LLL opacity on chest x-ray, with leukocytosis of 15 and
negative influenza swab.  He was started on IV Ceftriaxone and
Azithromycin.  He also received IV normal saline, Zofran, 
Tylenol
1g, and magnesium sulfate 2g.  Blood and urine cultures were
collected.

On arrival to the floor he was feeling much better and his wife
said he looked much better than before.  He denied dyspnea,
nausea, and was not coughing.

He recently saw his PCP ___ ___ at which time he was started
on fluoxetine for depression and citalopram was discontinued. 
His wife said he had been very tired and generally weak.  There
was concern for possible claudication and plan for non-invasive
vascular studies of lower extremities, due to reported pain in
his legs with exertion.
 
Past Medical History:
BENIGN PROSTATIC HYPERTROPHY                                    
Previously on Tamsulosin but had some type of reaction per wife 
COLONIC POLYPS                                                  
colonoscopy (___) - adenoma x 2 ; (___) - adenoma +          
hyperplastic                                                    
DEGENERATIVE JOINT DISEASE                                      
R rotator cuff tear ; s/p arthroscopic repair (___)           
DEPRESSION                                                      
GASTRITIS                                                       
EGD (___) - chemical gastropathy                               
GASTROESOPHAGEAL REFLUX                                         
EGD (98) - reflux esophagitis                                   
HYPERLIPIDEMIA                                                  
HYPERTENSION                                                    
OSTEOARTHRITIS                                                  
VOCAL CORD POLYPS                                               
s/p polypectomy                                                 
SKIN CANCERS                                                    
BCC L leg                                                       
___ ESOPHAGUS                                             
SLEEP APNEA                                                     
Probable; not on CPAP; did not tolerate CPAP years ago          
RESTLESS LEG SYMPTOMS                                           
PEMPHIGUS FOLIACEUS                                             
Wife says this was a reaction to Lisinopril?   
 
Social History:
Marital status:     Married                                     
Name ___             ___                                        
___:                                               
Children:           Yes                                         
Lives with:         ___                            
Tobacco use:        Former smoker                               
Tobacco Use         Smoked "couple of packs" per weekend but    
Comments:           quit ___ years ago                        
Smoking cessation   No                                          
counseling offered:                                             
Alcohol use:        Past                                        
Alcohol use         Used to drink heavily but quit ___ years ago 
comments:                                                       
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
He is retired, previously worked for ___.  Lives in
___ with his wife, daughter, grandson and dog. 
 
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   ___                                               
Father   ___     PROSTATE CANCER                           
Brother  ___     PROSTATE CANCER  
 
Physical Exam:
ADMISSION EXAM

VITALS: T 97.7F, BP 118/71, P 74, RR 18, O2 saturation 96% on
room air
GENERAL: Alert and in no apparent distress, laying in bed,
appears comfortable, conversant, smiling
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist
mucus membranes.
CV: Heart regular, no murmur, no S3, no S4. 2+ radial pulses
bilaterally, no edema.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored on room air. Speaks in
full sentences.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No suprapubic fullness or tenderness to palpation, no Foley
MSK: Neck supple, moves all extremities
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, speech is fluent
PSYCH: pleasant, appropriate affect, calm and cooperative

DISCHARGE EXAM
AVSS
pleasant, NAD
NCAT
RRR no mrg
CTAB
sntnd
neg CVAT
wwp, neg edema
A&Ox3, DOWB intact, normal gait, no droop, ___ BUE/BLE, SILT 
BUE/BLE
no rash grossly visible

 
Pertinent Results:
ADMISSION RESULTS

___ 09:19AM BLOOD WBC-15.0* RBC-4.17* Hgb-13.0* Hct-38.0* 
MCV-91 MCH-31.2 MCHC-34.2 RDW-12.1 RDWSD-40.4 Plt ___
___ 09:19AM BLOOD Neuts-87.0* Lymphs-4.7* Monos-7.3 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-13.02* AbsLymp-0.70* 
AbsMono-1.09* AbsEos-0.01* AbsBaso-0.05
___ 09:19AM BLOOD Glucose-110* UreaN-12 Creat-0.9 Na-135 
K-3.5 Cl-100 HCO3-22 AnGap-13
___ 09:19AM BLOOD cTropnT-<0.01
___ 09:19AM BLOOD ALT-13 AST-18 AlkPhos-97 TotBili-0.7
___ 09:19AM BLOOD Albumin-4.2 Calcium-9.7 Phos-1.7* Mg-1.5*
___ 09:28AM BLOOD Lactate-1.1
___ 09:46AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR* Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 09:46AM URINE Color-Straw Appear-Clear Sp ___

INTERVAL RESULTS AND DISCHARGE RESULTS

legionella ag neg
strep pna ag PENDING
BCx NGTD x2

___ 05:59AM BLOOD WBC-8.6 RBC-3.94* Hgb-12.2* Hct-37.2* 
MCV-94 MCH-31.0 MCHC-32.8 RDW-12.2 RDWSD-43.3 Plt ___
___ 05:59AM BLOOD Glucose-98 UreaN-15 Creat-0.9 Na-142 
K-5.0 Cl-105 HCO3-26 AnGap-11
___ 05:59AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.___ male with HTN, HLD, GERD, ___ esophagus, BPH, 
depression, osteoarthritis, sleep apnea (not on CPAP at home), 
who presented to the ED with
fever and chills, reflux, and mild dry cough c/w CAP. Improved 
rapidly with antibiotics and gentle IVF. 

ACUTE/ACTIVE PROBLEMS:
# Fever
# Cough
# Community acquired pneumonia: 
Given fever, leukocytosis, infiltrate, concerning for community 
acquired pneumonia. Received CTX/azithro in ED (___) and then 
transitioned to levofloxacin on ___. QTc tolerated 
levofloxacin (with repeat QTc 406). Given his rapid improvement, 
normal hemodynamics and good support at home with his wife, he 
was discharged home with plan to complete a 5d course of total 
abx (last day ___. Urine strep and BCx pending at time of 
discharge. He and wife were advised verbally to follow up with 
PCP this week. 

# Hypomagnesemia: Mg 1.5 in ED, resolved with repletion. 

# HTN: BP ranging from 122/101 to 163/84 while in ED, continued 
home amlodipine with good effect. 

# ___ esophagus: Currently asymptomatic but reports 
multiple episodes of severe reflux the past few nights that wake 
him from sleep. Gave pantoprazole in place of home non-formulary 
dexlansoprazole. Did not recur. 

# Depression: Recently switched from Citalopram to Fluoxetine on 
___ by his PCP. We continued fluoxetine 40mg daily and PRN 
Lorazepam ___ QHS for insomnia (this is his home regimen, 
takes every night).

# Sleep apnea: Discussed with patient and his wife who said he 
is not on CPAP at home, did not tolerate it years ago.

# BPH: Asymptomatic.  Previously on Tamsulosin but had reaction 
(lightheadedness is listed but they could not recall what 
reaction), so no longer on any medication for this.  

# Hyperlipidemia: Not currently on medication as outpatient, had 
elevated LFTs and myalgias with statins and fenofibrate.

# Cognitive problems?: Notes from his PCP's office mention that 
he is cognitively impaired.  He is completely oriented but does 
defer to his wife to answer some questions about his 
presentation but seemed able to provide most of the history 
himself.  He does not appear to have advanced dementia but wife 
confirmed some concerns about his memory. Confirmed with patient 
and wife that patient is not getting into unsafe situations at 
home (such as leaving stove on) and has not had any driving 
accidents (had some difficulty getting used to new area when he 
moved and got lost a couple times but otherwise not getting lost 
on the road). Confirmed w wife that patient is safe at home and 
driving. 

>30 minutes spent on patient care and coordination on day of 
discharge.

====
TRANSITIONAL ISSUES
- consider repeat CXR in ___ weeks to ensure resolution of 
infiltrate versus need for additional imaging
- continue to monitor mental status and treat depression as you 
are, continue to monitor for risks of driving and other safety 
issues (as you are doing)
- consider weaning lorazepam if able given age
- consider repeating BMP/Mg given electrolyte disturbances on 
presentation
# Contacts/HCP/Surrogate and Communication: Patient says his 
wife
___ would make decisions for him if he were unable 
# Code Status/Advance Care Planning: FULL - verified with 
patient
on admission

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam ___ mg PO QHS:PRN Insomnia 
2. Glucosamine-Chondroitin 3X 
___ 
sulf.Na) 750-600 mg oral DAILY 
3. FLUoxetine 40 mg PO DAILY 
4. Dexilant (dexlansoprazole) 60 mg oral DAILY 
5. amLODIPine 5 mg PO QPM 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
2.  amLODIPine 5 mg PO QPM  
3.  Dexilant (dexlansoprazole) 60 mg oral DAILY  
4.  FLUoxetine 40 mg PO DAILY  
5.  Glucosamine-Chondroitin 3X 
___ 
sulf.Na) 750-600 mg oral DAILY  
6.  LORazepam ___ mg PO QHS:PRN Insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
community acquired pneumonia
sepsis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure caring for you. You were admitted for a 
pneumonia. You got better with antibiotics and fluids. 
Please follow up with your primary care doctor as an outpatient 
this week. Your doctor may want to repeat a chest x ray in a few 
weeks to ensure the pneumonia has disappeared.
Please complete the course of antibiotics even if you feel 
better. Take your first dose tomorrow because you were already 
treated today.
Given your and your wife's concerns about memory, please keep an 
eye out for any safety issues including driving and stop driving 
if any issues arise. 
We wish you the best in your recovery. 
 
Followup Instructions:
___